US08039463B2
HOBt (72 mg, 0.53 mmol) and DMAP (81 mg, 0.66 mmol) were added to a stirred solution of 3-oxo-3-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-propionic acid (150 mg, 0.44 mmol) in DMF (2 mL). The reaction mixture was cooled to 10° C. and EDCI.HCl (102 mg, 0.53 mmol) followed by 5-amino-3H-benzooxazol-2-one (66 mg, 0.44 mmol) were added. The reaction mixture was stirred at room temperature overnight then diluted with water and the product extracted with ethyl acetate. The ethyl acetate was washed with brine solution, dried over Na2SO4 and concentrated. The residue was purified by column chromatography using silica gel 60-120 mesh (90% ethyl acetate in hexane) to afford 65 mg (32%) of 3-oxo-N-(2-oxo-2,3-dihydro-benzooxazol-5-yl)-3-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-propionamide. LCMS: 477.12 (M+1)+, 96.35%, 1H NMR: (DMSO-d6): δ 11.6 (s, 1H), 10.2 (d, 1H), 7.8 (q, 2H), 7.6 (m, 3H), 7.22 (m, 1H), 7.08 (t, 1H), 3.74 (m, 1H), 3.6 (s, 2H), 3.52 (s, 1H), 3.32 (s, 1H), 3.16 (m. 1H), 3.8 (m, 1H).

reactant | HOBt | 0.53 mmol, 72 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 3-oxo-3-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-propionic acid | 0.44 mmol, 150 mg | O=C(CC(=O)O)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C15H15F3N2O4
reactant | EDCI.HCl | 0.53 mmol, 102 mg | CCN=C=NCCCN(C)C.Cl
reactant | 5-amino-3H-benzooxazol-2-one | 0.44 mmol, 66 mg | NC=1C=CC2=C(NC(O2)=O)C1 | C7H6N2O2
catalyst | DMAP | 0.66 mmol, 81 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-oxo-N-(2-oxo-2,3-dihydro-benzooxazol-5-yl)-3-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-propionamide | 65 mg, 32% | O=C(CC(=O)NC=1C=CC2=C(NC(O2)=O)C1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C22H19F3N4O5
